US08859544B2
(2-Methylindolizin-3-yl)(4-nitrophenyl)methanone
4.54 ml (32.52 mmol) of triethylamine are added, at ambient temperature under an inert atmosphere, to 3.56 g (27.14 mmoles) of 2-methylindolizine in 15 ml of dichloroethane, followed, dropwise, by 5.53 g (29.85 mmol) of 4-nitrobenzoic acid chloride. The reaction medium is stirred for 18 h at ambient temperature, hydrolysed with a saturated aqueous solution of sodium hydrogen carbonate and then extracted with dichloromethane. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is washed with diethyl ether. 5.69 g of a yellow solid are obtained.

reactant | triethylamine | 32.52 mmol, 4.54 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylindolizine | 27.14 mmoles, 3.56 g | CC=1C=C2C=CC=CN2C1 | C9H9N
reactant | 4-nitrobenzoic acid chloride | 29.85 mmol, 5.53 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | (2-Methylindolizin-3-yl)(4-nitrophenyl)methanone | 5.69 g | CC=1C=C2C=CC=CN2C1C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H12N2O3
